US08372813B2
To a stirring solution of S-isoserine (4.0 g, 0.038 mol) in dioxane: H2O (100 mL, 1:1 v/v) at 0° C. was added N-methylmorpholine (4.77 mL, 0.043 mol), followed by Boc2O (11.28 mL, 0.049 mol) and the reaction was stirred overnight with gradual warming to room temperature. Glycine (1.0 g, 0.013 mol) was then added and the reaction was stirred for 20 min. The reaction was cooled to 0° C. and sat aq. NaHCO3 (75 mL) was added. The aqueous layer was washed with ethyl acetate (2×60 mL) and then acidified to pH 1 with NaHSO4. This solution was then extracted with ethyl acetate (3×70 mL) and these combined organic layers were dried over Na2SO4, filtered and concentrated to dryness to give the desired N-Boc-3-amino-2(S)-hydroxy-propanoic acid (6.30 g, 0.031 mmol, 81.5% yield): 1H NMR (400 MHz, CDCl3) δ 7.45 (bs, 1 H), 5.28 (bs, 1 H), 4.26 (m, 1 H), 3.40-3.62 (m, 2 H), 2.09 (s, 1 H), 1.42 (s, 9 H); 13C NMR (100 MHz, CDCl3) δ 174.72, 158.17, 82, 71.85, 44.28, 28.45.

reactant | S-isoserine | 0.038 mol, 4.0 g | C([C@@H](C(=O)[O-])O)[NH3+] | C3H7NO3
reactant | N-methylmorpholine | 0.043 mol, 4.77 mL | CN1CCOCC1 | C5H11NO
reactant | Boc2O | 0.049 mol, 11.28 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Glycine | 0.013 mol, 1.0 g | NCC(=O)O | C2H5NO2
reactant | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | H2O | 100 mL | O | H2O
product | N-Boc-3-amino-2(S)-hydroxy-propanoic acid | 0.031 mmol, 6.30 g, 81.5% yield | C(=O)(OC(C)(C)C)NC[C@@H](C(=O)O)O | C8H15NO5
